US09029411B2
Step 1: 4-Cyano-3-(2,4-dichlorophenyl)-5-morpholin-4-yl-N-(tetrahydro-2H-pyran-2-yloxy)thiophene-2-carboxamide
4-Cyano-3-(2,4-dichlorophenyl)-5-morpholin-4-ylthiophene-2-carboxylic acid (0.080 g, 0.21 mmol), HATU (0.095 g, 0.25 mmol), and diisopropylethylamine (0.073 mL, 0.42 mmol) were dissolved in DMF (2 mL) and stirred for 30 minutes. O-Tetrahydropyran-2-yl)hydroxylamine (0.049 g, 0.42 mmol) was added and the mixture was stirred at room temperature. After 30 minutes, LCMS showed complete conversion. Reaction was quenched by addition of water (5 mL) and the precipitate was filtered off, washed with water (2 mL) and hexane (5 mL) and dried to afford the title compound (0.055 g, 55%).

reactant | 4-Cyano-3-(2,4-dichlorophenyl)-5-morpholin-4-ylthiophene-2-carboxylic acid | 0.21 mmol, 0.080 g | C(#N)C=1C(=C(SC1N1CCOCC1)C(=O)O)C1=C(C=C(C=C1)Cl)Cl | C16H12Cl2N2O3S
reactant | HATU | 0.25 mmol, 0.095 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 0.42 mmol, 0.073 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | hydroxylamine | 0.42 mmol, 0.049 g | NO | H3NO
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-Cyano-3-(2,4-dichlorophenyl)-5-morpholin-4-yl-N-(tetrahydro-2H-pyran-2-yloxy)thiophene-2-carboxamide | 0.055 g, 55% | C(#N)C=1C(=C(SC1N1CCOCC1)C(=O)NOC1OCCCC1)C1=C(C=C(C=C1)Cl)Cl | C21H21Cl2N3O4S
